US08232284B2
N,N,N′-trimethylethane-1,2-diamine (0.92 ml, 6.84 mmol), 1-hydroxybenzotriazole monohydrate (1.05 g, 6.84 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.31 g, 6.84 mmol) were added to a chloroform solution (15 ml) of 3-chloro-2-fluoroisonicotinic acid (1.0 g, 5.70 mmol), and stirred under a nitrogen atmosphere at room temperature for 30 minutes. Saturated saline water was added to the reaction solution, and extracted with chloroform/methanol (9:1). The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Biotage NH, hexane:ethyl acetate=4:1 to 1:1) to obtain 3-chloro-N-[2-(dimethylamino)ethyl]-2-fluoro-N-methylisonicotinamide (1.27 g, yield: 85%) as a colorless oil.

reactant | N,N,N′-trimethylethane-1,2-diamine | 6.84 mmol, 0.92 ml | CN(CCNC)C | C5H14N2
reactant | 1-hydroxybenzotriazole monohydrate | 6.84 mmol, 1.05 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 6.84 mmol, 1.31 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 3-chloro-2-fluoroisonicotinic acid | 5.70 mmol, 1.0 g | ClC1=C(C(=O)O)C=CN=C1F | C6H3ClFNO2
solvent | water | O | H2O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-N-[2-(dimethylamino)ethyl]-2-fluoro-N-methylisonicotinamide | 1.27 g, yield: 85% | ClC1=C(C(=O)N(C)CCN(C)C)C=CN=C1F | C11H15ClFN3O
